US06548702B1
Reacting the 3-methoxy-4-sulfobenzoic acid mono-potassium salt with an inorganic acid halogenide the 4-chlorosulfonyl-3-methoxybenzoyl chloride is obtained. To our surprise we have found that at lower temperature, in an appropriate solvent the t-butylamine reacts selectively with the aromatic acid chloride. Thus, the desired 2-methoxy-4-(N-t-butylaminocarbonyl)benzenesulfonyl chloride is obtained in 92% yield, with a purity of 96%, so it can be used without further purification for the synthesis of drug substances.

reactant | 3-methoxy-4-sulfobenzoic acid mono-potassium salt | [K+].COC=1C=C(C(=O)[O-])C=CC1S(=O)(=O)O
reactant | 4-chlorosulfonyl-3-methoxybenzoyl chloride | ClS(=O)(=O)C1=C(C=C(C(=O)Cl)C=C1)OC | C8H6Cl2O4S
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 2-methoxy-4-(N-t-butylaminocarbonyl)benzenesulfonyl chloride | 92% yield | COC1=C(C=CC(=C1)C(=O)NC(C)(C)C)S(=O)(=O)Cl | C12H16ClNO4S
